US04624980
A mixture of cyclohexene oxide (19.6 g), t-butyl amine (37.1 g), zinc chloride (2.5 g), and 50 ml of toluene were sealed under an inert atmosphere in a Diels-Alder flask. The contents were stirred and heated in a sand bath at 120° C. for 23 hours. After cooling the slurry was diluted with 100 ml of toluene, washed with dilute ammonium hydroxide solution (3×250 ml) and water (300 ml), dried (Na2SO4), filtered, and the solvents were removed under reduced pressure to give 31.6 g of N-2-hydroxycyclohexyl-N-t-butylamine as an off-white, waxy solid, m.p. 42°-44° C.

reactant | cyclohexene oxide | 19.6 g | C12C(CCCC1)O2 | C6H10O
reactant | t-butyl amine | 37.1 g | C(C)(C)(C)N | C4H11N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc chloride | 2.5 g | [Cl-].[Zn+2].[Cl-]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-2-hydroxycyclohexyl-N-t-butylamine | 31.6 g | OC1C(CCCC1)NC(C)(C)C | C10H21NO
